US08309734B2
Step 1: 4-Bromo-3-(3,4-dihydro-2H-quinoline-1-carbonyl)-benzonitrile
To a solution of 2-bromo-5-cyano-benzoic acid (0.50 g, 2.12 mmol, 1.0 equiv; [CAS RN 845616-12-8]) in dichloromethane (5 mL) was added 1,2,3,4-tetrahydro-quinoline (0.35 g, 330 μL, 2.66 mmol, 1.2 equiv; [CAS RN 635-46-1]), N-ethyldiisopropylamine (1.43 g, 1.88 mL, 11.06 mmol, 5.0 equiv; [CAS RN 7087-68-5]) and 2-chloro-1-methylpyridinium iodide (0.68 g, 2.66 mmol, 1.2 equiv; [CAS RN 14338-32-0]). The reaction mixture was stirred at rt over the weekend. To the residue was added a sat. solution of NaHCO3 (100 mL) and the solution extracted with dichloromethane (3×50 mL). The combined organic phases were dried over Na2SO4 and the product purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of toluene/acetone affording 0.35 g (46%) of the title compound as a light yellow solid. MS (ISP): 341.1 [M+H]+.

reactant | 2-bromo-5-cyano-benzoic acid | 2.12 mmol, 0.50 g, 1.0 equiv | BrC1=C(C(=O)O)C=C(C=C1)C#N | C8H4BrNO2
reactant | 1,2,3,4-tetrahydro-quinoline | 2.66 mmol, 330 μL, 0.35 g, 1.2 equiv | N1CCCC2=CC=CC=C12 | C9H11N
reactant | N-ethyldiisopropylamine | 11.06 mmol, 1.88 mL, 1.43 g, 5.0 equiv | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-1-methylpyridinium iodide | 2.66 mmol, 0.68 g, 1.2 equiv | [I-].ClC1=[N+](C=CC=C1)C
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-Bromo-3-(3,4-dihydro-2H-quinoline-1-carbonyl)-benzonitrile | BrC1=C(C=C(C#N)C=C1)C(=O)N1CCCC2=CC=CC=C12 | C17H13BrN2O
